US07087576B2
5-[4-(4-(2-(2-Aminopropanamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride
A solution of 5-[4-(4-(2-(2-t-butoxycarbonylaminopropanamido}2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione (1 g, 1.75 mmol) in dichloromethane (10 ml) was bubbled with HCl gas at −10° C. for 50 minutes. The excess HCl gas was removed by N2 bubbling and concentrated to dryness to afford the title compound (0.59 g, yield 66.3%).

reactant | 5-[4-(4-(2-(2-t-butoxycarbonylaminopropanamido}2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione | 1.75 mmol, 1 g | C(C)(C)(C)OC(=O)NC(C(=O)NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC)C | C28H33N3O8S
reactant | HCl | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-[4-(4-(2-(2-Aminopropanamido)-2-methoxycarbonylethyl)phenoxy)benzyl]thiazolidin-2,4-dione hydrochloride | 0.59 g, yield 66.3% | Cl.NC(C(=O)NC(CC1=CC=C(OC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C=C1)C(=O)OC)C | InChI=1S/C23H25N3O6S.ClH/c1-13(24)20(27)25-18(22(29)31-2)11-14-3-7-16(8-4-14)32-17-9-5-15(6-10-17)12-19-21(28)26-23(30)33-19;/h3-10,13,18-19H,11-12,24H2,1-2H3,(H,25,27)(H,26,28,30);1H
